US04489093
(S)α-cyano-3-phenoxy-benzyl (1R,cis,E) 2,2-dimethyl-3-(2-fluoro-3-oxo-3-hydroxy-1-propenyl)-cyclopropane carboxylate and 2,2,2-trifluoro-ethanol were reacted to obtain (S)α-cyano-3-phenoxy-benzyl (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-(2,2,2-trifluoroethoxy)-1-propenyl]-cyclopropanecarboxylate with a specific rotation of [α]D20 =+36.5°±2.° (c=0.5% in chloroform).

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis,E) 2,2-dimethyl-3-(2-fluoro-3-oxo-3-hydroxy-1-propenyl)-cyclopropane carboxylate | CC1([C@@H]([C@@H]1\C=C(/C(O)=O)\F)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H20FNO5
reactant | 2,2,2-trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-(2,2,2-trifluoroethoxy)-1-propenyl]-cyclopropanecarboxylate | CC1([C@@H]([C@@H]1\C=C(/C(OCC(F)(F)F)=O)\F)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C25H21F4NO5
